data/oMe_Silver.jsonl
{"reaction_id": "NR-228_1-C(=O)OC_2-C#N_3-c1ccccc1_4-c1cc(Cl)ccc1_5-C","level": "easy","name": "Prilezhaev Reaction","reactants_smiles": ["C(C(=O)OC)=C(C#N)(c1ccccc1)","c1cc(Cl)ccc1C(=O)OC"],"products_smiles": ["C(C(=O)OC)1OC1(C#N)c1ccccc1"],"conditions": "Peroxy acid","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OC)1OC1(C#N)c1ccccc1","step_weight": 0,"rationale": "The alkene π electrons attack the electrophilic oxygen of the peroxy acid due to its polarization by the adjacent carbonyl, enabling a concerted transition state that minimizes charge separation and forms the epoxide efficiently."}],"description": "The alkene undergoes electrophilic addition with the peroxy acid in a concerted Prilezhaev epoxidation, where the π bond attacks the electrophilic terminal oxygen of the peracid, forming a three-membered epoxide ring in a single step under mild conditions."}
{"reaction_id": "NG-004_1-c1nccnc1_2-c1ccccc1_3-C(F)(F)F","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1nccnc1)C=O","C(c1ccccc1)(C(F)(F)F)=O"],"products_smiles": ["C(c1ccccc1)(C(F)(F)F)=C(C=O)c1nccnc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1nccnc1)=C([O-])","rationale": "Acid-base conditions favor deprotonation at the α-position due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(C(F)(F)F)([O-])C(C=O)c1nccnc1","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of c1ccccc1, whose partial positive charge is enhanced by the electron-withdrawing carbonyl oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(C(F)(F)F)(O)C(C=O)c1nccnc1","rationale": "Protonation of the alkoxide intermediate generates a stable β-hydroxy carbonyl, favored under acidic conditions for subsequent elimination."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(C(F)(F)F)(O)C=C([O-])c1nccnc1","rationale": "Deprotonation at the α-position forms an enolate again, enabling conjugation with the β-hydroxy group for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(C(F)(F)F)=C(C=O)c1nccnc1","rationale": "Elimination of water is driven by formation of the conjugated α,β-unsaturated carbonyl, which is thermodynamically stabilized by extended π-delocalization."}],"description": "Under acidic conditions, the reaction proceeds via enolate formation, nucleophilic attack on the carbonyl of the second reactant, and subsequent dehydration to yield the α,β-unsaturated carbonyl product. Acid catalysis facilitates proton transfers and stabilizes intermediates, driving the condensation forward."}
